US07157464B2
(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-(3-methoxy-phenyl)-acetic acid methyl ester was then dissolved in THF (20 ml) and LiOH (0.39 g) in water (5 ml) were added. The mixture was stirred at room temperature for 4 h. After this period the THF was completely evaporated from the reaction mixture under vacuum. The remaining aqueous layer was extracted with ethyl acetate (3×5 ml) and the organic layer was discarded. The aqueous layer was cooled in ice and neutralized by using concentrated HCl. This neutral aqueous layer was extracted with ethyl acetate (3×10 ml), the organic layer dried over Na2SO4, concentrated and purified by flash chromatography (CHCl3/MeOH) to yield (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-(3-methoxy-phenyl)-acetic acid

reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-(3-methoxy-phenyl)-acetic acid methyl ester | COC(C(C1=CC(=CC=C1)OC)N1N=C(C(=C1C)Cl)C(F)(F)F)=O | C15H14ClF3N2O3
reactant | LiOH | 0.39 g | [Li+].[OH-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-(3-methoxy-phenyl)-acetic acid | ClC=1C(=NN(C1C)C(C(=O)O)C1=CC(=CC=C1)OC)C(F)(F)F | C14H12ClF3N2O3
